Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
chlorhexidine
 
Attending: ___
 
___ Complaint:
Ileostomy reversal
 
Major Surgical or Invasive Procedure:
Ileostomy reversal by Dr. ___ on ___

 
History of Present Illness:
Mr. ___ is a ___ year-old man with rectal cancer clinical 
stage T2N1M0 (Stage IIIA), enrolled on the ___ trial, 
randomized to the control arm, completed neoadjuvant 
chemoradiotherapy ___, underwent robotic resection
(LAR) on ___, and is here to further discuss ileostomy 
reversal plans and initiating adjuvant therapy.

 
Past Medical History:
ECTAL CANCER 
Rectal cancer stage IIIA (T2N1M0)
- ___ Presented to PCP with hematochezia ___ 4 weeks
- ___ Colonoscopy revealed an ulcerated 3 cm mass in the 
proximal rectum. Biopsy showed adenocarcinoma
- ___ MR pelvis showed a T2N1 rectal cancer. CT torso 
showed no metastatic disease. 
- ___ Offer enrollment in ___ ___ Signed consent for PROSPECT ___ ___ Start chemoradiotherapy with ci5FU 225 mg/m2/day
CONTACT DERMATITIS 
TINEA CORPORIS 
ELEVATED PSA
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
DISCHARGE PHYSICAL EXAMINATION:
VS: Temp 98.8 HR 63 BP 119/75 RR 18 O2 98RA
GENERAL:  Thin, well appearing man in no distress.
NECK:  Soft and supple. 
CARDIO:  Regular rate and rhythm. No murmurs, rubs or gallops.
LUNGS:  Clear to auscultation bilaterally. 
ABDOMEN: Soft, mildly distended, +BS in all four quadrants. 
Dressing: c/d/I
EXTR: No edema, cyanosis, or erythema.
 
Pertinent Results:
___ 06:40PM   SODIUM-138 POTASSIUM-4.4 CHLORIDE-102
___ 06:40PM   MAGNESIUM-1.9
___ 06:40PM   HCT-38.7*
 
Brief Hospital Course:
___ admitted after ileostomy reversal on ___ ___. Post-operatively he did well. His pain was well 
controlled with oral regimen. On post-operative day 4 he was 
able to tolerate a regular diet, had reliable bowel function, 
and frequent flatus. His abdominal exam was benign. He was 
therefore discharged home with plan to follow up with Dr. 
___ in clinic in two weeks.  
 
Medications on Admission:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every four 
(4) hours Disp #*50 Tablet Refills:*0
2. Pravastatin 80 mg PO QPM 
3. Acetaminophen 650 mg PO Q6H:PRN headache 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*50 Tablet Refills:*0
 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileostomy reversal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital following ileostomy reversal 
procedure. You are now ready to be discharged home. 

Please follow these instructions to ensure good recovery.

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel your please seek medical attention. If you 
are passing loose stool without improvement please call the 
office or go to the emergency room if the symptoms are severe. 
If you are taking narcotic pain medications there is a risk that 
you will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve.  

The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. 

Occasionally, patients will need to take a medication to slow 
their bowel movements as their bodies adjust to the new normal 
without an ileostomy, you should consult with our office for 
advice. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation.  
 
You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with gauze packing strip. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.  
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.
 
You will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 

Good luck! 
 
Followup Instructions:
___